US04618677
The procedure described in Example 2 was followed, using 1.0 g of 4-acetylphenyl isocyanate, 2.0 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride, 0.7 g of triethylamine and 50 ml of methylene chloride, to give 0.83 g (29% of theory) of N-(4-acetylphenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride monohydrate as a white crystalline solid, M.p. 235°-237° C.

reactant | 4-acetylphenyl isocyanate | 1.0 g | C(C)(=O)C1=CC=C(C=C1)N=C=O | C9H7NO2
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride | 2.0 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(4-acetylphenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride monohydrate | 0.83 g, 29% | O.Cl.Cl.C(C)(=O)C1=CC=C(C=C1)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C23H30ClN3O2S.2ClH.H2O/c1-18(28)20-5-9-22(10-6-20)25-23(29)30-16-2-11-26-12-14-27(15-13-26)17-19-3-7-21(24)8-4-19;;;/h3-10,25,29-30H,2,11-17H2,1H3;2*1H;1H2
